### PR TITLE
[Merged by Bors] - even/odd for DirichletCharacter

### PR DESCRIPTION
**Pull request by mo271**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 1]
```diff
@@ -225,4 +224,37 @@ lemma primitiveCharacter_one (hn : n ≠ 0) :
...
+
+lemma toUnitHom_odd_eval_neg_one (hψ : ψ.Odd) : ψ.toUnitHom (-1) = -1 := by
+  rw [← Units.eq_iff, MulChar.coe_toUnitHom]
+  exact hψ
+
+lemma toUnitHom_even_eval_neg_one (hψ : ψ.Even) : ψ.toUnitHom (-1) = 1 := by
+  rw [← Units.eq_iff, MulChar.coe_toUnitHom]
+  exact hψ
+
+lemma odd_eval_sub (x : ZMod m) (hψ : ψ.Odd) : ψ (m - x) = - ψ x := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:248]: Why not `ψ (-x) = - ψ x` (same for the next lemma)? As elements of `ZMod m`, `m = 0`.

File: Mathlib/NumberTheory/DirichletCharacter/Basic.lean [hunk 2]
```diff
@@ -225,4 +224,35 @@ lemma primitiveCharacter_one (hn : n ≠ 0) :
...
+lemma toUnitHom_even_eval_neg_one (hψ : ψ.Even) : ψ.toUnitHom (-1) = 1 := by
+  rw [← Units.eq_iff, MulChar.coe_toUnitHom]
+  exact hψ
+
+lemma odd_eval_neg (x : ZMod m) (hψ : ψ.Odd) : ψ (- x) = - ψ x := by
+  rw [Odd] at hψ
+  rw [← neg_one_mul, map_mul]
+  simp [hψ]
+
+lemma even_eval_neg (x : ZMod m) (hψ : Even ψ) : ψ (- x) = ψ x := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:253]: `ψ.Even` for consistency?

Comment (jcommelin) [inline Mathlib/NumberTheory/DirichletCharacter/Basic.lean:253]: Please rename these lemmas so that they can be used with dot notation. So
```suggestion
lemma Odd.toUnitHom_eval_neg_one (hψ : ψ.Odd) : ψ.toUnitHom (-1) = -1 := by
  rw [← Units.eq_iff, MulChar.coe_toUnitHom]
  exact hψ

lemma Even.toUnitHom_eval_neg_one (hψ : ψ.Even) : ψ.toUnitHom (-1) = 1 := by
  rw [← Units.eq_iff, MulChar.coe_toUnitHom]
  exact hψ

lemma Odd.eval_neg (x : ZMod m) (hψ : ψ.Odd) : ψ (- x) = - ψ x := by
  rw [Odd] at hψ
  rw [← neg_one_mul, map_mul]
  simp [hψ]

lemma Even.eval_neg (x : ZMod m) (hψ : ψ.Even) : ψ (- x) = ψ x := by
```
